US04988625
C. Preparation of N,N'-bis-(2,4-dinitrophenyl)-1,6 - diamino-3,4-dihydroxy hexane
A 25 mL round bottom flask fitted with a magnetic stirrer was charged with 221.1 mg (1.0 mmol) of 1,6 diamino-3,4-dihydrox-yhexane dihydrochloride, 409 mg (2.2 mmol) of 2,4-dinitrofluorobenzene, 130 mg (0.94 mmol) of K2CO3 and 10 mL of H2O. The mixture was stirred at 75° C. for 5 h. After cooling the yellow precipitate was isolated by filtration, washed with H2O and dried, affording 310 mg of crude product. This material (46 mg) was recrystallized from 2 mL of 1:1 H2O/DMF affording 20.4 mg of N,N'-bis(2,4-dinitrophenyl)-1,6 diamino-3,4-dihydroxy-hexane, mp 199° C. dec. Calcd for C18H20N6O10 : C, 45.00; H, 4.17; N, 1750. Found: C, 44.68; H, 4.19; N, 17.12. 200 MHz NMR (acetone-d6): 1.9 (m, 2H), 2.15 (m, 2H), 3.78 (m, 6H), 4.34 (d, J =4.8 Hz, 2H, active H), 7.30 (d, J=9.6, 2H), 8.30 (dd, J =2.2, 9.6, 2H), 8.99 (d, J=2.6 Hz, 2H), 9.1 (m, 1H).

reactant | 1,6 diamino-3,4-dihydrox-yhexane dihydrochloride | 1.0 mmol, 221.1 mg | Cl.Cl.NCCC(C(CCN)O)O
reactant | 2,4-dinitrofluorobenzene | 2.2 mmol, 409 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | K2CO3 | 0.94 mmol, 130 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 10 mL | O | H2O
product | N,N'-bis-(2,4-dinitrophenyl)-1,6 - diamino-3,4-dihydroxy hexane | 310 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NCCC(C(CCNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])O)O | C18H20N6O10
